US08980938B2
To a solution of 1.40 g 7-hydroxy-benzo[b]thiophene-6-carboxylic acid in 20 ml N,N-dimethylformamide were added 0.21 g 1-hydroxy-benzotriaziole and 1.42 g 2-amino-2-methyl-propionic acid methyl ester hydrochloride. At 0° C. 6.4 ml (4.99 g) ethyl-diiso-propyl-amine and 2.22 g (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride were added. After 2 days at room temperature the reaction mixture was concentrated in vacuo, and the resulting residue was diluted with ethyl acetate and washed with brine. The organic layer was dried over magnesium sulphate and concentrated. The resulting residue was purified by flash chromatography (silica, heptane/ethyl acetate) to afford 0.84 g 2-[(7-hydroxy-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester.

reactant | 7-hydroxy-benzo[b]thiophene-6-carboxylic acid | 1.40 g | OC1=C(C=CC2=C1SC=C2)C(=O)O | C9H6O3S
reactant | 2-amino-2-methyl-propionic acid methyl ester hydrochloride | 1.42 g | Cl.COC(C(C)(C)N)=O
reactant | ethyl-diiso-propyl-amine | 6.4 ml, 4.99 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 2.22 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[(7-hydroxy-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 0.84 g | COC(C(C)(C)NC(=O)C=1C=CC2=C(SC=C2)C1O)=O | C14H15NO4S
